US09428528B2
Step 2 Preparation of tert-butyl 2-(5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiophen-2-yl)pyrrolidine-1-carboxylate
To a stirred solution of tert-butyl 2-(5-bromothiophen-2-yl)pyrrolidine-1-carboxylate (0.750 g, 2.26 mmol), 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide (1.0 g, 2.26 mmol), and tri(furan-2-yl)phosphine (105 mg, 0.452 mmol) in N-Methyl-2-pyrrolidone (10 mL) degassed with nitrogen is added Pd2(dba)3 (207 mg, 0.226 mmol). The reaction mixture is heated to 80° C. for 5 hours then left at ambient 70 hours. Reaction mixture partitioned between ethyl acetate (100 mL) and water (100 mL). Organic phase is isolated and concentrated in vacuo to give the crude material, which is purified by column chromatography on silica gel eluting in 0-100% ethyl acetate in heptane to give the title compound (559 mg): 1H-NMR (400 MHz, CDCl3) δ 1.32-1.52 (m, 9H), 1.89-2.15 (m, 3H), 2.21-2.37 (m, 1H), 2.59-2.78 (m, 1H), 3.40-3.66 (m, 2H), 4.25-4.38 (m, 1H), 4.43-4.49 (m, 0.5H), 4.54-4.62 (m, 1H), 4.66-4.73 (m, 0.5H), 5.01-5.25 (m, 2H), 5.89 (s, 1H), 6.83 (bs, 1H), 7.06 (d, J=8.6 Hz, 1H), 7.14 (d, J=3.5 Hz, 1H), 7.38 (d, J=8.1 Hz, 2H), 7.56 (d, J=8.1 Hz, 2H). m/z (CI) M-boc+H 431.0.

reactant | tert-butyl 2-(5-bromothiophen-2-yl)pyrrolidine-1-carboxylate | 2.26 mmol, 0.750 g | BrC1=CC=C(S1)C1N(CCC1)C(=O)OC(C)(C)C | C13H18BrNO2S
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide | 2.26 mmol, 1.0 g | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
reactant | tri(furan-2-yl)phosphine | 0.452 mmol, 105 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N-Methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
catalyst | Pd2(dba)3 | 0.226 mmol, 207 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 2-(5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiophen-2-yl)pyrrolidine-1-carboxylate | 559 mg | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C1=CC=C(S1)C1N(CCC1)C(=O)OC(C)(C)C)CF)Cl | C24H29Cl2FN2O4S
